US03951981
In a similar manner 7-fluoro-4,9-dihydro-10H-thieno[3,4-b] [1,5] benzodiazepin-10-thione is reacted with potassium hydroxide and methyl sulfate to give 7-fluoro-10-(methylthio)-4H-thieno[3,4-b][1,5]benzodiazepine.

reactant | 7-fluoro-4,9-dihydro-10H-thieno[3,4-b] [1,5] benzodiazepin-10-thione | FC=1C=CC2=C(NC(C=3C(N2)=CSC3)=S)C1 | C11H7FN2S2
reactant | potassium hydroxide | [OH-].[K+]
reactant | methyl sulfate | S(=O)(=O)(OC)[O-]
product | 7-fluoro-10-(methylthio)-4H-thieno[3,4-b][1,5]benzodiazepine | FC=1C=CC2=C(N=C(C=3C(N2)=CSC3)SC)C1 | C12H9FN2S2
